US07381719B2
Part A: 6-(4-Formyl-2-methoxyphenoxy)nicotinonitrile
Take up vanillin (1.0 g, 6.57 mmol), 6-chloronicotinonitrile (0.911 g, 6.57 mmol) and K2CO3 (1.36 g, 9.86 mmol) in DMF (16.4 mL). Stir at room temperature overnight, then heat at 100° C. for 3 hours. Cool the reaction mixture to room temperature before quenching with water (75 mL). Extract with dichloromethane (2×150 mL). Wash the organic layer with brine (1×75 mL), dry over MgSO4, filter and concentrate to give the title compound (1.65 g, 98.8%): TOF MS ES+ 255.1 (M+H)+, HRMS calcd for C14H11N2O3 255.0770 (M+H)+, found 255.0776, time 0.38 min; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), 0.1% TFA/acetonitrile in 0.1% TFA/water at 1.0 mL/min, 20-99% over 23 min], tR=12.2 min, 100% purity.

reactant | vanillin | 6.57 mmol, 1.0 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | 6-chloronicotinonitrile | 6.57 mmol, 0.911 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | K2CO3 | 9.86 mmol, 1.36 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 16.4 mL | CN(C)C=O | C3H7NO
product | 6-(4-Formyl-2-methoxyphenoxy)nicotinonitrile | 1.65 g, 98.8% | C(=O)C1=CC(=C(OC2=NC=C(C#N)C=C2)C=C1)OC | C14H10N2O3
